US04863870
To a well stirred solution of methyl dithiophenylacetate (16.2 grams, 0.089 mole) in methanol (50 mL) was added anhydrous sodium hydrogen sulfide (5.6 grams, 0.10 mole). The mixture was stirred overnight at room temperature, and the solvent removed in vacuo. The solid salt thus obained was taken up in tetrahydrofuran (125 mL). To the solution was added bromoacetic acid (12.4 grams, 0.089 mole). The resulting mixture was stirred for 2 hours at room temperature, and the solvent removed in vacuo. The resulting solid was taken up in 5% (w/v) aqueous sodium bicarbonate, then washed twice with chloroform. The aqueous layer was acidified by the addition of concentration HCl and then extracted three times into diethyl ether. The combined ethereal extracts were dried over anhydrous Na2SO4. The solvent was then finally removed in vacuo to afford carboxymethyl dithiophenylacetate, an orange solid, in 94.5% yield.

reactant | methyl dithiophenylacetate | 0.089 mole, 16.2 grams | S1C(=CC=C1)C(C(=O)OC)C=1SC=CC1 | C11H10O2S2
reactant | sodium hydrogen sulfide | 0.10 mole, 5.6 grams | S.[Na]
reactant | bromoacetic acid | 0.089 mole, 12.4 grams | BrCC(=O)O | C2H3BrO2
solvent | methanol | 50 mL | CO | CH4O
product | carboxymethyl dithiophenylacetate | 94.5% yield | S1C(=CC=C1)C(C(=O)OCC(=O)O)C=1SC=CC1 | C12H10O4S2
